2110-05-03 08:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Ibandronate Sodium
   Abdominal pain;
   Actonel (Oral) (Risedronate Sodium)
   Diarrhea;
   Hydrochlorothiazide
   hyponatremia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-5-3**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 96 (86 - 116) bpm
   BP: 127/68(83) {112/55(73) - 159/102(114)} mmHg
   RR: 24 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,311 mL
                                                                    183 mL
   PO:
             TF:
   IVF:
                                                                     11 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    635 mL
   Urine:
                                                                  1,300 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,239 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 561 (420 - 561) mL
   PS : 7 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   656 K/uL
   8.6 g/dL
   154 mg/dL
   0.4 mg/dL
   25 mEq/L
   5.0 mEq/L
   6 mg/dL
   91 mEq/L
   126 mEq/L
   24.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2110-5-3**]  01:46 AM
   WBC
   7.5
   Hct
   24.9
   Plt
   656
   Cr
   0.4
   TropT
   <0.01
   Glucose
   154
   Other labs: PT / PTT / INR:14.9/29.9/1.3, CK / CKMB /
   Troponin-T:53//<0.01, ALT / AST:33/36, Alk Phos / T Bili:213/0.7,
   Differential-Neuts:60.0 %, Band:1.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Albumin:3.4 g/dL, LDH:313 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-5-2**] 10:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:

2110-05-03 12:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Was weaned off bipap but became tachycardic to 120s.  Replaced bipap
   and HR improved
   - denies complaint this am
   Allergies:
   Ibandronate Sodium
   Abdominal pain;
   Actonel (Oral) (Risedronate Sodium)
   Diarrhea;
   Hydrochlorothiazide
   hyponatremia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-5-3**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 98 (86 - 116) bpm
   BP: 132/65(80) {111/55(73) - 159/102(179)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,311 mL
                                                                    224 mL
   PO:
             TF:
   IVF:
                                                                     11 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    735 mL
   Urine:
                                                                  1,300 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,239 mL
                                                                   -511 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 561 (420 - 561) mL
   PS : 7 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 92%
   ABG: ///25/
   Ve: 5.9 L/min
   Physical Examination
   Vitals: T: 98.4 BP: 159/102  P: 99  R: 28 O2: 100% on bipap
   pulsus 10 mm hg
   General: Alert, oriented, no acute distress, biPAP mask in place
   HEENT: Sclera anicteric, mouth not examined, fine jaw tremor
   Neck: JVD difficult to assess given mask and fine jaw tremor
   Lungs: no wheezes or rhonchi, bilateral rhales
   CV: Regular rate and rhythm, normal S1 + S2, extra heart sounds
   difficult to appreciate over the sound of the bipap machine
   Abdomen: + BS, soft, non-distended, tenderness to deep palpation in
   RLQ, no rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   656 K/uL
   8.6 g/dL
   154 mg/dL
   0.4 mg/dL
   25 mEq/L
   5.0 mEq/L
   6 mg/dL
   91 mEq/L
   126 mEq/L
   24.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2110-5-3**]  01:46 AM
   WBC
   7.5
   Hct
   24.9
   Plt
   656
   Cr
   0.4
   TropT
   <0.01
   Glucose
   154
   Other labs: PT / PTT / INR:14.9/29.9/1.3, CK / CKMB /
   Troponin-T:53//<0.01, ALT / AST:33/36, Alk Phos / T Bili:213/0.7,
   Differential-Neuts:60.0 %, Band:1.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Albumin:3.4 g/dL, LDH:313 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan:
   Ms. [**Known lastname 12370**] is a [**Age over 90 **]yo F with past medical history of HTN and recent
   symptoms of cough, weakness, and anorexia who presented to the ED with
   fever and SOB and was found to have pericardial effusion.
   .
   # Pericardial effusion: Patient had evidence of moderate sized effusion
   on bedside echo.  Pulsus paradoxus not elevated at 10 mm hg and no
   evidence of hemodynamic compromise (although pt had transient
   hypotension in ED responsive to fluids).  Effusion may be malignant
   (other cells seen on diff) versus infective (pericarditis).  Given no
   ST changes, elevated troponin, or chest pain, would favor malignant
   effusion over pericarditis/myocarditis.  No history of autoimmune
   disease.
   - continue to monitor vitals including pulsus
   - will give IV fluids and perform paracardiaocentesis if evidence of
   hemodynamic compromise
   - follow up on atypical/other cells
   - f/u set cardiac biomarkers
   .
   # Shortnes of breath: Likely from pulmonary edema caused by poor
   forward left ventricular ejection due to pericardial effusion.  CXR
   shows evidence of cardiomegally with widened mediastinum and
   cephalization of blood vessels and peribronchial cuffing consistent
   with pulmonary vascular congestion.  Patient's symptoms correlate with
   onset in the past week.  Was recently given antibiotics for bronchitis
   and has fever, therefore infection (either lung primary or cardiac)
   should still be in the differential.
   - continue levofloxacin to cover CAP for now (febrile with
   leukocytosis)
   - try to obtain sputum cultures
   - follow blood cutlures
   - wean biPAP as tolerated
   - work up pericardial effusion as above
   .
   # Hyponatremia: Improved from yesterday after saline bolus.
   - Check urine lytes/osm
   - trend sodium
   .
   # Hyperkalemia: EKG showed no evidence of peaked T waves or prolonged
   PR or QRS.  Etiology unclear as creatinine normal and not on
   diuretics.  [**Month (only) 8**] be from pseudohyperkalemia in setting of thrombocytosis
   (which corrects at 0.15 per 100K platelets above normal). Could
   consider tumor lysis or hypoaldosteronism.
   - add Ca, Mg, phos, LDH
   - consider checking uric acid or aldosterone/renin if w/u unrevealing
   - am ecg
   - urine potassium excretion
   .
   # Likely malignancy:
   - repeat diff
   - diagnostic pericardial fluid studies
   - Heme/onc when have tissue
   .
   # Anemia: Hct currently 10 points lower than [**1-8**].  Increased WBC and
   platelets (3 cell lines abnormal) may be hematological malignancy.  Pt
   also known to have hemorrhioids.
   - repeat diff
   - guaiac stools
   - fe studies
   - Hemolysis labs
   - trend hct
   - T+S
   - 2 PIVs
   .
   # Thrombocytosis:
   As above, differential includes hematological maligancy.  Acute
   reactive process also in the DDX.
   - trend platelets
   - malignancy w/u as above
   .
   # AVNRT: Patient denied feeling palpitations in the ED.  She may have a
   history of occult arrhythmia.  [**Month (only) 8**] have been precipitated by
   simpathetic drive with pericardial effusion and/or nebulizer treatment.
   - continue tele
   - am EKG
   - Adenosine or carotid message PRN
   .
   # Hypertension:
   - will restart atenolol
   .
   # abdominal pain: Exam not very impressive for acute process, but
   AST/ALT and Alk phos elevated.
   - trend LFTs
   - serial abdominal exam
   - consider u/s if does not improve
   .
   # depression:
   - continue citalopram
   .
   FEN: replete electrolytes, regular diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code: DNR/DNI patient confirmed
   .
   Communication: Patient, daughter [**Name (NI) 2519**] [**Name (NI) 12370**] [**Telephone/Fax (1) 12371**]
   .
   Disposition: ICU for now, pending effusion w/u
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-5-2**] 10:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12333**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2110-5-5**] 13:30 ------

2110-05-04 06:24:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   [**5-3**]:
   - hem/onc reviewed smear and found blasts
   - discussed likely diagnosis of leukemia with pt and family; they are
   deciding whether to undergo BM biopsy and further work-up and will
   readdress w/ Hem/Onc [**5-4**]
   - increased work of breathing with crackles on exam; pulsus was not
   elevated, got 10mg IV lasix and made 400cc of urine over 4 hours w/
   some improvement in her tachypnea
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsIbandronate Sodium
   Abdominal pain;
   Actonel (Oral) (Risedronate Sodium)
   Diarrhea;
   Hydrochlorothiazide
   hyponatremia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-5-4**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 76 (71 - 105) bpm
   BP: 141/68(88) {110/56(67) - 164/80(179)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    340 mL
                                                                     64 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    210 mL
   Urine:
                                                                  1,960 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,620 mL
                                                                   -146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   656 K/uL
   8.6 g/dL
   116 mg/dL
   0.5 mg/dL
   28 mEq/L
   5.0 mEq/L
   8 mg/dL
   91 mEq/L
   127 mEq/L
   24.9 %
   7.5 K/uL
         [image002.jpg]
                             [**2110-5-3**]  01:46 AM
                             [**2110-5-3**]  06:07 PM
   WBC
   7.5
   Hct
   24.9
   Plt
   656
   Cr
   0.4
   0.5
   TropT
   <0.01
   Glucose
   154
   116
   Other labs: PT / PTT / INR:14.9/29.9/1.3, CK / CKMB /
   Troponin-T:53//<0.01, ALT / AST:33/36, Alk Phos / T Bili:213/0.7,
   Differential-Neuts:60.0 %, Band:1.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0
   %, Albumin:3.4 g/dL, LDH:313 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.5 mg/dL
   MICRO:
   Blood cx pending x 2
   Imaging:
   CXR [**2110-5-2**]:
   CHEST: There has been no significant change since the prior chest
   x-ray. The
   heart remains enlarged. No gross failure is present but movement
   artifact is
   noted. A very severe scoliosis of the lumbar spine is again noted.
   IMPRESSION: No significant change.
   The study and the report were reviewed by the staff radiologist.
   CTA [**2110-5-2**]:
   1. Large pericardial effusion, apparently new compared to chest
   radiograph
   [**2109-2-5**].
   2. No evidence of pulmonary embolism.
   3. Mediastinal lymphadenopathy, possibly related to hydrostatic edema
   but
   not specific for this process.
   4. Mild hydrostatic edema, with small bilateral pleural effusions, left
   slightly larger than right.
   5. Scattered sub-4-mm pulmonary nodules. Given the patient's advanced
   age,
   follow- up is likely not warranted if there is no history of a primary
   malignancy.
   6. Focal opacity in the right lung apex, which appears to have been
   present
   on chest radiograph of [**2109-2-5**], and most likely reflects a scar.
   However,
   serial chest radiographs could be considered to exclude indolent
   infection if
   warranted clinically.
   Assessment and Plan
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Assessment and Plan:
   Ms. [**Known lastname 12370**] is a [**Age over 90 **]yo F with past medical history of HTN and recent
   symptoms of cough, weakness, and anorexia who presented to the ED with
   fever and SOB and was found to have pericardial effusion.
   .
   # Pericardial effusion: Patient had evidence of moderate sized effusion
   on bedside echo. Pulsus paradoxus not elevated at 10 mm hg and no
   evidence of hemodynamic compromise (although pt had transient
   hypotension in ED responsive to fluids).  Effusion may be malignant
   (other cells seen on diff) versus infective (pericarditis).  Given no
   ST changes, elevated troponin, or chest pain, would favor malignant
   effusion over pericarditis/myocarditis.  No history of autoimmune
   disease.
   - continue to monitor vitals including pulsus
   - will give IV fluids and perform paracardiaocentesis if evidence of
   hemodynamic compromise
   - follow up on atypical/other cells
   - biomarkers ruled out
   .
   # Shortnes of breath: Likely from pulmonary edema caused by poor
   forward left ventricular ejection due to pericardial effusion.  CXR
   shows evidence of cardiomegally with widened mediastinum and
   cephalization of blood vessels and peribronchial cuffing consistent
   with pulmonary vascular congestion.  Patient's symptoms correlate with
   onset in the past week.  Was recently given antibiotics for bronchitis
   and has fever, therefore infection (either lung primary or cardiac)
   should still be in the differential. Lasix 10mg IV ONCE resulted in
   nearly 800cc negative from 6pm to MN.
   - Would consider repeating lasix 10mg IV ONCE
   - continue levofloxacin to cover CAP for now (febrile with
   leukocytosis)
   - try to obtain sputum cultures
   - follow blood cutlures
   - wean O2 as tolerated
   - work up pericardial effusion as above
   .
   # Hyponatremia: Unclear etiology. Favor SIADH with superimposed
   euvolemic to hypervolemic hyponatremia, however, improved after saline
   bolus. Urine osms/lytes suggest SIADH.
   - trend sodium
   - If worsens would free water restrict
   - Diuresis per above
   .
   # Hyperkalemia: EKG showed no evidence of peaked T waves or prolonged
   PR or QRS.  Etiology unclear as creatinine normal and not on
   diuretics.  [**Month (only) 8**] be from pseudohyperkalemia in setting of thrombocytosis
   (which corrects at 0.15 per 100K platelets above normal). Could
   consider tumor lysis or hypoaldosteronism.
   - add Ca, Mg, phos, LDH
   - consider checking uric acid or aldosterone/renin if w/u unrevealing
   - am ecg
   - urine potassium excretion unrevealing
   .
   # Acute leukemia:  Work up next step would be BM bx. Hem/onc following.
   - Pt to decide today what next step is going to be
   - BMT recs, appreciate their input
   .
   # Anemia: Hct currently 10 points lower than [**1-8**].  Increased WBC and
   platelets (3 cell lines abnormal) may be hematological malignancy.  Pt
   also known to have hemorrhioids. HCT trending down, but within limits
   of error.
   - repeat diff
   - guaiac stools
   - fe studies
 c/w anemia of chronic inflammation
   - Hemolysis labs
 unimpressive
   - trend hct
   - T+S
   - 2 PIVs
   .
   # Thrombocytosis:
   As above, differential includes hematological maligancy.  Acute
   reactive process also in the DDX.
   - trend platelets
   - malignancy w/u as above
   .
   # AVNRT: Patient denied feeling palpitations in the ED.  She may have a
   history of occult arrhythmia.  [**Month (only) 8**] have been precipitated by
   sympathetic drive with pericardial effusion and/or nebulizer treatment.
   - monitor tele
   - Vagal maneuvers, if no success - Adenosine
   .
   # Hypertension:
   - will restart atenolol
   .
   # abdominal pain: Resolved. Exam not very impressive for acute process,
   but AST/ALT and Alk phos elevated.
   .
   # depression:
   - continue citalopram
   .
   FEN: replete electrolytes, regular diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code: DNR/DNI patient confirmed
   .
   Communication: Patient, daughter [**Name (NI) 2519**] [**Name (NI) 12370**] [**Telephone/Fax (1) 12371**]
   .
   Disposition: CCU for now, pending leukemia w/u
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-5-2**] 10:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 9539**] andhousestaff.
   I would add the following remarks:

2110-05-05 11:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - levofloxacin was discontinued
   - heme/onc recommended transfusion for low hematocrit; no indication
   for hydroxyurea given low white cell count; no indication for bone
   marrow biopsy or chemotherapy given advanced age and poor functional
   status; family agrees
   - patient watched overnight in CCU
   - to be called out to medicine floor in AM
   - plan for palliative care consult on [**5-5**]; family would like home with
   hospice
   - seen by Hem./Onc.
   - given one of packed red cells
   Allergies:
   Ibandronate Sodium
   Abdominal pain;
   Actonel (Oral) (Risedronate Sodium)
   Diarrhea;
   Hydrochlorothiazide
   hyponatremia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2110-5-4**] 08:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-5-5**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 94 (83 - 105) bpm
   BP: 142/75(92) {116/61(52) - 151/78(92)} mmHg
   RR: 26 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    375 mL
                                                                    120 mL
   PO:
                  120 mL
   TF:
   IVF:
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,000 mL
                                                                    500 mL
   Urine:
                                                                  1,000 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -625 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   General: Alert, oriented, no acute distress
   Lungs: no wheezes or rhonchi, or  rhales
   CV: regular rhythm, slightly tachycardic, normal S1 + S2
   Abdomen: + BS, soft, non-distended, tenderness to deep palpation in
   RLQ, no rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   725 K/uL
   10.7 g/dL
   92 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.5 mEq/L
   9 mg/dL
   94 mEq/L
   133 mEq/L
   32.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2110-5-3**]  01:46 AM
                             [**2110-5-3**]  06:07 PM
                             [**2110-5-4**]  06:29 AM
                             [**2110-5-5**]  12:12 AM
                             [**2110-5-5**]  05:50 AM
   WBC
   7.5
   12.4
   14.0
   Hct
   24.9
   26.4
   33.1
   32.7
   Plt
   656
   748
   725
   Cr
   0.4
   0.5
   0.5
   0.5
   TropT
   <0.01
   Glucose
   154
   116
   85
   92
   Other labs: PT / PTT / INR:14.1/28.6/1.2, CK / CKMB /
   Troponin-T:53//<0.01, ALT / AST:33/36, Alk Phos / T Bili:213/0.7,
   Differential-Neuts:39.0 %, Band:1.0 %, Lymph:7.0 %, Mono:14.0 %,
   Eos:0.0 %, Albumin:3.4 g/dL, LDH:357 IU/L, Ca++:8.7 mg/dL, Mg++:1.8
   mg/dL, PO4:3.2 mg/dL
   MICRO:
   Blood cx pending x 2
   Imaging:
   CXR [**2110-5-2**]:
   CHEST: There has been no significant change since the prior chest
   x-ray. The
   heart remains enlarged. No gross failure is present but movement
   artifact is
   noted. A very severe scoliosis of the lumbar spine is again noted.
   IMPRESSION: No significant change.
   The study and the report were reviewed by the staff radiologist.
   CTA [**2110-5-2**]:
   1. Large pericardial effusion, apparently new compared to chest
   radiograph
   [**2109-2-5**].
   2. No evidence of pulmonary embolism.
   3. Mediastinal lymphadenopathy, possibly related to hydrostatic edema
   but
   not specific for this process.
   4. Mild hydrostatic edema, with small bilateral pleural effusions, left
   slightly larger than right.
   5. Scattered sub-4-mm pulmonary nodules. Given the patient's advanced
   age,
   follow- up is likely not warranted if there is no history of a primary
   malignancy.
   6. Focal opacity in the right lung apex, which appears to have been
   present
   on chest radiograph of [**2109-2-5**], and most likely reflects a scar.
   However,
   serial chest radiographs could be considered to exclude indolent
   infection if
   warranted clinically.
   Assessment and Plan
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Assessment and Plan:
   Ms. [**Known lastname 12370**] is a [**Age over 90 **]yo F with past medical history of HTN and recent
   symptoms of cough, weakness, and anorexia who presented to the ED with
   fever and SOB and was found to have pericardial effusion and atypical
   cells on diff suggestive of blasts.
   .
   # Malignancy: Patient had blasts on peripheral blood differentiation.
   Also has pericardial effusion which is thought to be malignant.
   Heme/on was consulted (appreciate their input).  Given patient
s age
   and poor prognosis with AML? A confirmatory bone marrow biopsy may not
   be helpful.  Pt received blood transfusion yesterday
   - family meeting today to  discuss goals of care and make decision
   regarding definitive diagnosis with bone marrow or pericardial effusion
   biopsy
   - symptomatic treatment for now including transfusion Hct < 25, or
   platelet < 20
   # Pericardial effusion: Patient had evidence of moderate sized effusion
   on bedside echo. Pulsus paradoxus not elevated at 10 mm hg and no
   evidence of hemodynamic compromise (although pt had transient
   hypotension in ED responsive to fluids).  Initial differential
   diagnosis included malignant (other cells seen on diff) versus
   infective (pericarditis).  No history of autoimmune disease and no
   elevated BUN.  Differential showed presence of blasts indicating
   leukemia, supporting malignant effusion.
   - continue to monitor vitals including pulsus
   - will give IV fluids and perform therapeutic paracardiaocentesis if
   evidence of hemodynamic compromise
   - hematologic w/u as above
   .
   # Shortnes of breath: Likely from pulmonary edema caused by poor
   forward left ventricular ejection due to pericardial effusion.  Initial
   CXR showed evidence of cardiomegally with widened mediastinum and
   cephalization of blood vessels and peribronchial cuffing consistent
   with pulmonary vascular congestion.  Lasix 10mg IV ONCE resulted in
   nearly 800cc negative from 6pm to MN.  Levofloxacin stopped yesterday
   given pt was afebrile and fever thought to be due to malignancy.
   - would have low threshold to restart levofloxacin for CAP
   - Lasix PRN for volume overload
   - try to obtain sputum cultures
   - follow blood cutlures
   - wean O2 as tolerated
   - work up pericardial effusion as above
   .
   # Hyponatremia: Resolving.  Unclear etiology. Favor SIADH with
   superimposed euvolemic to hypervolemic hyponatremia, however, improved
   after saline bolus. Urine osms/lytes suggest SIADH.
   - trend sodium
   - If worsens would free water restrict
   - Diuresis per above
   .
   # Hyperkalemia: EKG showed no evidence of peaked T waves or prolonged
   PR or QRS.  Etiology unclear as creatinine normal and not on
   diuretics.  [**Month (only) 8**] be from pseudohyperkalemia in setting of thrombocytosis
   (which corrects at 0.15 per 100K platelets above normal). Could
   consider tumor lysis or hypoaldosteronism.
   - add Ca, Mg, phos, LDH
   - consider checking uric acid or aldosterone/renin if w/u unrevealing
   - am ecg
   - urine potassium excretion unrevealing
   .
   # Acute leukemia:  Work up next step would be BM bx. Hem/onc following.
   - Pt to decide today what next step is going to be
   - BMT recs, appreciate their input
   .
   # Anemia: Hct currently 10 points lower than [**1-8**].  Increased WBC and
   platelets (3 cell lines abnormal) may be hematological malignancy.  Pt
   also known to have hemorrhioids. HCT trending down, but within limits
   of error.
   - repeat diff
   - guaiac stools
   - fe studies
 c/w anemia of chronic inflammation
   - Hemolysis labs
 unimpressive
   - trend hct
   - T+S
   - 2 PIVs
   .
   # Thrombocytosis:
   As above, differential includes hematological maligancy.  Acute
   reactive process also in the DDX.
   - trend platelets
   - malignancy w/u as above
   .
   # AVNRT: Patient denied feeling palpitations in the ED.  She may have a
   history of occult arrhythmia.  [**Month (only) 8**] have been precipitated by
   sympathetic drive with pericardial effusion and/or nebulizer treatment.
   - monitor tele
   - Vagal maneuvers, if no success - Adenosine
   .
   # Hypertension:
   - will restart atenolol
   .
   # abdominal pain: Resolved. Exam not very impressive for acute process,
   but AST/ALT and Alk phos elevated.
   .
   # depression:
   - continue citalopram
   .
   FEN: replete electrolytes, regular diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code: DNR/DNI patient confirmed
   .
   Communication: Patient, daughter [**Name (NI) 2519**] [**Name (NI) 12370**] [**Telephone/Fax (1) 12371**]
   .
   Disposition: CCU for now, pending leukemia w/u
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-5-2**] 10:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: